US09029381B2
trans-(4-Isopropylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone
To a stirring anhydrous DCM (3.5 mL) solution of trans-2-phenyl-1-cyclopropanecarbonyl chloride (0.096 ml, 0.56 mmol), which is commercially available from, for example, Sigma-Aldrich Corporation (P.O. Box 14508, St. Louis, Mo. 63178), under an argon (g) atmosphere was added the 1-isopropylpiperazine (0.167 ml, 1.17 mmol), which is commercially available from, for example, Sigma-Aldrich, in one portion at ambient temperature, wherein the reaction was allowed to stir for ca. 15 h before being washed with dilute aq. K2CO3 (1×2 mL), H2O (2×2 mL), dried over MgSO4, filtered and concentrated in vacuo. The resulting gum was subjected to flash chromatography (basic alumina-24 g; gradient elution: 30-10% EtOAc/Hexane over 14 min at 30 mL/min) to give 125 mg title compound as a colorless tacky solid (82% yield). m/z (ES+) M+1=273.2; HPLC tR=1.44 min. 1H NMR (500 MHz, CDCl3) δ 7.29-7.24 (m, 2H), 7.20-7.16 (m, 1H), 7.10 (d, J=7.0 Hz, 2H), 3.68-3.55 (m, 4H), 2.70 (ddd, J=12.9, 6.7, 6.6 Hz, 1H), 2.54-2.43 (m, 5H), 1.96 (ddd, J=8.4, 5.3, 4.3 Hz, 1H), 1.65 (ddd, J=9.2, 5.3, 4.3 Hz, 1H), 1.25 (ddd, J=8.4, 6.3, 4.3 Hz, 1H), 1.03 (d, J=6.7 Hz, 6H).

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | 0.56 mmol, 0.096 ml | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-isopropylpiperazine | 1.17 mmol, 0.167 ml | C(C)(C)N1CCNCC1 | C7H16N2
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | trans-(4-Isopropylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone | 125 mg | C(C)(C)N1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C17H24N2O
